US03965015
Preparation of 1-octadecyl-3-(amino dodecyl) urea
12 grams 1,12 diaminododecane was reacted with 5 gms octadecyl isocyanate as in Example 2. Yield: 13.8 gms., melting point 105°-159°C.

reactant | 1,12 diaminododecane | 12 grams | NCCCCCCCCCCCCN | C12H28N2
reactant | octadecyl isocyanate | 5 gms | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
product | 1-octadecyl-3-(amino dodecyl) urea | C(CCCCCCCCCCCCCCCCC)NC(=O)NCCCCCCCCCCCCN | C31H65N3O
